US09301950B2
1-(adamantyl)guanidine (39)
Amantadine (0.30 g, 2 mmol), HgCl2 (0.54 g, 2 mmol), and 1,3-bis(tert-butoxycarbonyl)-2-methyl-2-thiopseudourea (0.58 g, 2 mmol) were stirred in DMF (10 mL) under a N2 atmosphere for 24 h. H2O was added to the reaction mixture, and the white precipitate was removed by filtration. The precipitate was washed with CH2Cl2 twice, and the combined filtrate was extracted with CH2Cl2, washed with brine and dried over MgSO4, concentrated in vacuo, and purified by flash chromatography. The Boc protecting group was removed by 50% TFA/CH2Cl2 for 2 h at RT. Excess TFA was removed by passing N2 through the solution to give a yellow solid which was subsequently purified by flash chromatography (0.41 g, 74% over two steps). 1H-NMR (360 MHz, CD3OD) δ 2.13 (br s, 3H), 1.97 (br s, 6H), 1.76 (br s, 6H); 13C-NMR (90 MHz, CD3OD) δ 160.35, 53.83, 42.45, 36.86, 31.03; ESI-MS: Calculated for C11H19N3 (M+H)+ 194.2. Found: 194.7.

reactant | Amantadine | 2 mmol, 0.30 g | C1C2CC3CC1CC(C2)(C3)N | C10H17N
reactant | 1,3-bis(tert-butoxycarbonyl)-2-methyl-2-thiopseudourea | 2 mmol, 0.58 g | C(C)(C)(C)OC(=O)NC(SC)=NC(=O)OC(C)(C)C | C12H22N2O4S
reactant | H2O | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | HgCl2 | 2 mmol, 0.54 g | Cl[Hg]Cl
product | 1-(adamantyl)guanidine | C12(CC3CC(CC(C1)C3)C2)NC(=N)N | C11H19N3
